US09029545B2
[1-(3-Methylphenyl)ethylidene]propanedinitrile
To a stirred solution of acetic acid (10 mL) was added dropwise hexamethyldisilazane (3.89 mL, 18.65 mmol) over ca. 30 min with the temperature kept below 40° C. throughout the addition. This resulting solution was subsequently added to a stirred solution of 1-(3-methylphenyl)ethanone (2.03 mL, 14.91 mmol) and malononitrile (1.88 mL, 29.8 mmol) in acetic acid (10 mL) and the mixture heated to 70° C. under nitrogen overnight. The reaction mixture was then cooled to RT, diluted with water (ca. 50 mL) and extracted with toluene (ca. 50 mL×2). The combined organic layer was passed through a phase separator and the solvent concentrated in vacuo, to give the title compound (2.89 g) which was used in next step without further purification. LCMS (A) m/z: 181 [M−1]−, Rt 1.23 min (acidic).

reactant | hexamethyldisilazane | 18.65 mmol, 3.89 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1-(3-methylphenyl)ethanone | 14.91 mmol, 2.03 mL | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | malononitrile | 29.8 mmol, 1.88 mL | C(CC#N)#N | C3H2N2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | ca. 50 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | [1-(3-Methylphenyl)ethylidene]propanedinitrile | 2.89 g | CC=1C=C(C=CC1)C(C)=C(C#N)C#N | C12H10N2
